data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_614148_1,[C:1](/[C:6](=[C:4](\[N:2]([N:3]([C:5](=[O:8])[H:12])[H:11])[H:10])[O:7][H:9])[H:13])([H:14])([H:15])[H:16]>>[C:1]([C:6]([C:4]1([O:7][H:9])[N:2]([H:10])[N:3]1[H:11])([C:5](=[O:8])[H:12])[H:13])([H:14])([H:15])[H:16],67.62191000001977
MR_653225_1,[C@:1]([C:3]([H:15])([H:16])[H:17])([O:5][C:2]([H:12])([H:13])[H:14])([O:6][H:9])/[N:8]=[C:4](\[O:7][H:10])[H:11]>>[C:1](\[C:3]([H:15])([H:16])[H:17])([O:6][H:9])=[N:8]\[C@@:4]([O:5][C:2]([H:12])([H:13])[H:14])([O:7][H:10])[H:11],46.02398749997533
MR_174367_1,[N:1]([C:3](=[O:6])[H:10])(/[N:5]=[C:4](/[N:2]([H:8])[H:9])[H:11])[H:7]>>[N:1]1([H:7])[C:3]([O:6][H:8])([H:10])[N:5]1/[C:4](=[N:2]/[H:9])[H:11],58.161720000006056
MR_21845_1,[C:1]([C:5]([C:2]([H:11])([H:12])[H:13])=[C:6]([C:3]([H:14])([H:16])[H:17])[C:4]([H:15])([H:18])[H:19])([O:7][H:8])([H:9])[H:10]>>[C:1](=[C:5](\[C:2]([H:11])([H:12])[H:13])[C:6]([C:3]([H:14])([H:16])[H:17])([C:4]([H:15])([H:18])[H:19])[H:10])(\[O:7][H:8])[H:9],72.15622499998588
MR_77296_1,[C:1]([C:3]([H:14])([H:16])[H:17])([C:4]([H:15])([H:18])[H:19])(/[C:5](=[N:8]/[O:7][H:9])[H:10])[O:6][C:2]([H:11])([H:12])[H:13]>>[C:1]([C:3]([H:14])([H:16])[H:17])([C:4]([H:15])([H:18])[H:19])=[C:5]([N:8]([O:6][C:2]([H:11])([H:12])[H:13])[O:7][H:9])[H:10],66.68442500003252
MR_347084_0,[C:1](\[C:4]([H:17])([H:18])[H:19])(=[N:8]/[C:7]1([C:3]([H:14])([H:15])[H:16])[C:6]([C:2]([H:11])([H:12])[H:13])([C:5]([H:20])([H:21])[H:22])[O:9]1)[H:10]>>[C:1]([C:4]([H:17])([H:18])[H:19])([C:5]([H:20])([H:21])[H:22])(/[N:8]=[C:7](/[C:3]([H:14])([H:15])[H:16])[C:6]([C:2]([H:11])([H:12])[H:13])=[O:9])[H:10],59.453742500025584
MR_108058_0,[C@@:1](/[C:4]([C:2]([H:13])([H:14])[H:15])=[C:6](\[C:3]([H:16])([H:17])[H:18])[H:12])([N:5]([H:10])[H:11])([O:7][H:8])[H:9]>>[C@:1]1([N:5]([H:10])[H:11])([H:9])[C@:4]([C:2]([H:13])([H:14])[H:15])([O:7][H:8])[C@@:6]1([C:3]([H:16])([H:17])[H:18])[H:12],59.761844999996754
MR_11903_0,[C:1](/[C:5]([N:4](/[C:6](=[C:8](/[C:3]([H:19])([H:20])[H:21])[H:12])[H:10])[H:9])=[C:7](/[C:2]([H:16])([H:17])[H:18])[H:11])([H:13])([H:14])[H:15]>>[C:1]([C:5]1([C:7]([C:2]([H:16])([H:17])[H:18])([H:11])[H:19])[N:4]([H:9])[C:6]1([C:8](=[C:3]([H:20])[H:21])[H:12])[H:10])([H:13])([H:14])[H:15],72.74921250002251
MR_116359_0,[C:1]1([H:10])([H:11])[N:5]([H:9])[N:4]([H:8])[C:6]([C:2]([H:12])([H:13])[H:14])=[C:7]1[C:3]([H:15])([H:16])[H:17]>>[C:1]1([H:10])([H:11])[N:5]([H:9])[C@:7]1([C:3]([H:15])([H:16])[H:17])/[C:6]([C:2]([H:12])([H:13])[H:14])=[N:4]/[H:8],57.49406000001528
MR_60411_1,[C:1]([N:5]([C:6]([C:2]([H:14])([H:15])[H:16])=[C:7]([C:3]([H:17])([H:18])[H:22])[C:4]([H:19])([H:20])[H:21])[N:8]([H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1](/[N:5]=[C:6](\[C:2]([H:14])([H:15])[H:16])[C:7]([C:3]([H:17])([H:18])[H:22])([C:4]([H:19])([H:20])[H:21])[N:8]([H:9])[H:10])([H:11])([H:12])[H:13],57.16399500002822
MR_26491_0,[C:1]([C:2]([H:11])([H:14])[H:15])([C:3]([H:12])([H:13])[H:16])([C:4]([O:6][H:8])=[O:7])[N:5]([H:9])[H:10]>>[C:1]1([C:2]([H:11])([H:14])[H:15])([C:3]([H:12])([H:13])[H:16])[C@@:4]([N:5]([H:9])[H:10])([O:6][H:8])[O:7]1,67.66395250002063
MR_456796_1,[C:1](/[N:8]=[C:4](\[N:2]([C:3]([N:5]([H:11])[H:12])=[O:9])[O:7][H:10])[N:6]([H:13])[H:14])([H:15])([H:16])[H:17]>>[C:1]([N:8]([C:3]([N:5]([H:11])[H:12])=[O:9])/[C:4](=[N:2]/[O:7][H:10])[N:6]([H:13])[H:14])([H:15])([H:16])[H:17],40.36080000000581
MR_186157_1,[C:1]([C:4](=[C:5](/[C:2]([H:15])([H:16])[H:17])[N:7]([H:9])[H:10])/[C:6]([C:3]([H:18])([H:19])[H:20])=[N:8]\[H:11])([H:12])([H:13])[H:14]>>[C:1]([C:4]1=[C:6]([C:3]([H:18])([H:19])[H:20])[N:8]([H:11])[C:5]1([C:2]([H:15])([H:16])[H:17])[N:7]([H:9])[H:10])([H:12])([H:13])[H:14],32.08846750002493
MR_546063_0,[C:1]([C:3]([H:17])([H:18])[H:19])([C:4]([H:16])([H:20])[H:21])([N:5]([C:2]([H:13])([H:14])[H:15])[C:6]([O:8][H:10])=[O:9])[N:7]([H:11])[H:12]>>[C:1]([C:3]([H:17])([H:18])[H:19])([C:4]([H:16])([H:20])[H:21])([N:5]([C:2]([H:13])([H:14])[H:15])[N:7]([H:11])[H:12])[C:6]([O:8][H:10])=[O:9],54.41303499998256
MR_24126_0,[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])([O:7][H:9])[H:11])([C:5]([C:4]([H:17])([H:18])[H:19])=[O:8])([N:6]([H:12])[H:13])[H:10]>>[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])=[O:7])([C:5]([C:4]([H:17])([H:18])[H:19])([O:8][H:9])[H:11])([N:6]([H:12])[H:13])[H:10],56.61053999999879
MR_420528_0,[C:1]([C:2]([C:4]([O:7][H:11])=[O:9])([N:6]([H:15])[H:16])[H:14])([C:5]([C:3]([H:17])([H:18])[H:19])=[O:10])([O:8][H:12])[H:13]>>[C:1](/[C:2](=[N:6]/[H:16])[H:14])([C:5]([C:3]([H:17])([H:18])[H:19])([C:4]([O:7][H:11])=[O:9])[O:10][H:15])([O:8][H:12])[H:13],57.06296749996227
MR_106247_0,[C:1](/[C:6]([N:5]([C:8](=[C:7]([C:2]([H:16])([H:17])[H:21])[C:3]([H:18])([H:19])[H:20])[H:11])[H:10])=[C:9](/[C:4]([H:22])([H:23])[H:24])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:6]1([C:9](=[C:4]([H:22])[H:23])[H:12])[N:5]([H:10])[C:8]1([C:7]([C:2]([H:16])([H:17])[H:21])([C:3]([H:18])([H:19])[H:20])[H:24])[H:11])([H:13])([H:14])[H:15],55.23317749998071
